US04083725
A 2 g amount of 3-aminobenzanthrone was dissolved in a mixture of 60 g of ice, 60 g of water and 15 ml of conc-sulfuric acid to obtain a solution. A solution of 2g of NaNO2 in 10 ml of water was gradually added to the solution. The mixture was stirred to react the components in order to obtain a diazonium salt of benzanthrone. The diazonium salt was gradually added to a solution of 5 g of KI in 10 ml of water and a small amount of copper powder was added to the solution. The mixture was heated to 80° C and reacted at 80° C for 1 hour and further at about 110° C for 1 hour. The resulting solid was extracted with hot benzene and treated with activated carbon and recrystallized from benzene whereby 3-iodobenzanthrone was obtained.

reactant | 3-aminobenzanthrone | NC=1C=CC=2C3=CC=CC=C3C(C3=CC=CC1C23)=O | C17H11NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 60 g | O | H2O
product | benzanthrone | C1=CC=C2C=CC=C3C(=O)C4=CC=CC=C4C1=C23 | C17H10O
